US08420816B2
(R)-2-(6-chloro-3-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)-N-(3-cyanophenyl)-3-methylbutanamide
To an 8 mL scintillation vial equipped for stirring was added (R)-2-(6-chloro-3-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)-3-methylbutanoic acid (10 mg, 0.032 mmol). THF (0.5 mL), 3-aminobenzonitrile (7.68 mg, 0.065 mmol) and HATU (14.83 mg, 0.039 mmol) were added and the solution was stirred at 25° C. for 1 h. The reaction mixture was purified via preparative mass trigger LC-MS (AcCN/H2O, 5-50%). The fractions were collected, concentrated, and dried in vacuo to afford the title compound as a yellow oil (1.8 mg, 13.58%). 1H NMR (400 MHz, CD3OD) δ 1.00 (d, J=6.60 Hz, 3 H) 1.12 (d, J=6.57 Hz, 3 H) 2.60 (s, 1 H) 5.02 (d, J=19.71 Hz, 1 H) 5.20 (d, J=11.12 Hz, 1 H) 5.43 (d, J=19.71 Hz, 1 H) 7.43 (dt, J=7.77, 1.42 Hz, 1 H) 7.48 (t, J=7.96 Hz, 1 H) 7.81-7.85 (m, 1 H) 7.86 (s, 1 H) 8.08 (t, J=1.64 Hz, 1 H) 8.25 (s, 1 H). [M+H] calc'd for C21H18ClN5O2, 408; found, 408.4.

reactant | (R)-2-(6-chloro-3-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)-3-methylbutanoic acid | 0.032 mmol, 10 mg | ClC1=CN=C2C=3C(C(N(CC13)[C@@H](C(=O)O)C(C)C)=O)=CN2 | C14H14ClN3O3
reactant | 3-aminobenzonitrile | 0.065 mmol, 7.68 mg | NC=1C=C(C#N)C=CC1 | C7H6N2
reactant | HATU | 0.039 mmol, 14.83 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | (R)-2-(6-chloro-3-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)-N-(3-cyanophenyl)-3-methylbutanamide | 1.8 mg, 13.58% | ClC1=CN=C2C=3C(C(N(CC13)[C@@H](C(=O)NC1=CC(=CC=C1)C#N)C(C)C)=O)=CN2 | C21H18ClN5O2
